US06362177B1
Sodium cyanoborohydride (26 mg, 0.42 mmol) and acetic acid (14 μL) was added successively to a mixture of 4-{N-(2-amino-5-bromobenzoyl)glycyl}aminomethyl-1-(4-chlorobenzyl)piperidine (Compound No. 1042) (67 mg, 0.14 mmol), 37% formaldehyde solution in water (0.112 mL, 1.4 mmol), acetonitrile (2 mL), and methanol (1.5 mL). After the solution was stirred at 50° C. for 30 h, 1 N aqueous NaOH and dichloromethane were added. The aqueous layer was separated and the organic layer was dried over K2CO3, filtered and evaporated. Column chromatography (SiO2, 20% MeOH/AcOEt) gave 4-[N-{5-bromo-2-(dimethylamino)benzoyl)glycyl]aminomethyl-1-(4- chlorobenzyl)piperidine (Compound No. 1428) (60 mg, 82%): The purity was determined by RPLC/MS (100%); ESI/MS m/e 523 (C24H30BrClF6N4O2).

reactant | Sodium cyanoborohydride | 0.42 mmol, 26 mg | C(#N)[BH3-].[Na+]
reactant | 4-{N-(2-amino-5-bromobenzoyl)glycyl}aminomethyl-1-(4-chlorobenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C(C=C1)Br | C22H26BrClN4O2
reactant | formaldehyde | C=O | CH2O
reactant | water | 1.4 mmol, 0.112 mL | O | H2O
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | acetic acid | 14 μL | C(C)(=O)O | C2H4O2
product | 4-[N-{5-bromo-2-(dimethylamino)benzoyl)glycyl]aminomethyl-1-(4- chlorobenzyl)piperidine | BrC=1C=CC(=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C1)N(C)C | C24H30BrClN4O2
